US07635715B2
Step D: Preparation of Ethyl 7-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
Diethyl 2-(2-(3-fluorophenyl)-2-methylpropanoyl)malonate (13.03 g, 40 mmol) was added to concentrated H2SO4 (65 mL, 769 mmol), and the mixture was stirred at room temperature for 45 minutes. Ice (H2O) was added, and the aqueous mixture was extracted with EtOAc (2×). The combined organic layers were washed with water (2×) and brine, dried (MgSO4), and concentrated in vacuo to give the crude compound as an orange oil. The crude oil was purified by silica flash chromatography (0-100% DCM/hexane) to give the desired compound as a white solid (4.26 g). MS (m/e)=279.1 (M+H)+.

reactant | Diethyl 2-(2-(3-fluorophenyl)-2-methylpropanoyl)malonate | 40 mmol, 13.03 g | FC=1C=C(C=CC1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21FO5
reactant | H2SO4 | 769 mmol, 65 mL | OS(=O)(=O)O | H2O4S
product | Ethyl 7-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 4.26 g | FC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)OCC)O | C15H15FO4
